US09428477B2
Production of 1-((E)-2-Decenoyl)-4-cyanopiperidine [Compound 37]
The same procedures as in Example 2 were carried out using (E)-2-decenoic acid and piperidine-4-carbonitrile as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | piperidine-4-carbonitrile | N1CCC(CC1)C#N | C6H10N2
product | 1-((E)-2-Decenoyl)-4-cyanopiperidine | C(\C=C\CCCCCCC)(=O)N1CCC(CC1)C#N | C16H26N2O
